US08202865B2
Step 1: methyl 4-{5-[3-(propionylamino)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate
Methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate, prepared as in example 67, Steps 1 and 2, (100 mg; 0.24 mmol) was suspended in a DCM/Pyridine mixture (4 mL, 1:1). Propionyl chloride (25 μL, 0.29 mmol) was added and the mixture was heated to 40° C. for 18 h. After this time, solvents were removed under vacuum and title compound was obtained as an off-white powder after trituration with MeOH (96 mg; 83%). LC/MS (Method B): 467.4 (M+H)+. HPLC (Method A) Rt. 5.69 min (purity: 93.6%).

reactant | Methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | NC=1C=C(C=CC1N1C(CCCC1)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C22H23FN4O3
reactant | Propionyl chloride | 0.29 mmol, 25 μL | C(CC)(=O)Cl | C3H5ClO
solvent | DCM Pyridine | 4 mL | C(Cl)Cl.N1=CC=CC=C1
product | methyl 4-{5-[3-(propionylamino)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | C(CC)(=O)NC=1C=C(C=CC1N1C(CCCC1)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C25H27FN4O4
